US07022851B2
1-(4-Chloro-6-methyl-2-nitro-benzenesulfonyl)-4-[(thymin-1-yl)-acetyl]-piperazin-2-one
The title compound (913 mg, 91%) was synthesized by reaction of 1-(4-chloro-6-methyl-2-nitro-benzenesulfonyl)-piperazin-2-one HCl salt (740 mg, 2.0 mmol) with (thymin-1-yl)-acetic acid (368 mg, 2.0 mmol) as per the procedure of example 64. 1H-NMR (500 MHz; DMSO-d6) δ 11.34 (s, 0.6H), 11.32 (s, 0.4H), 8.19 (s, 1H), 7.95 (s, 1H), 7.34 (s, 0.6H), 7.28 (s, 0.4H), 4.67 (s, 1.2H), 4.59 (s, 0.8H), 4.40 (s, 0.8H), 4.26 (s, 1.2H), 3.99 (m, 1.2H), 3.92 (m, 1.2H), 3.82 (s, 1.6H), 2.64 (s, 3H), 1.74 (s, 3H).

reactant | 1-(4-chloro-6-methyl-2-nitro-benzenesulfonyl)-piperazin-2-one HCl salt | 2.0 mmol, 740 mg | Cl.ClC1=CC(=C(C(=C1)C)S(=O)(=O)N1C(CNCC1)=O)[N+](=O)[O-]
reactant | (thymin-1-yl)-acetic acid | 2.0 mmol, 368 mg | N1(C(=O)NC(=O)C(C)=C1)CC(=O)O | C7H8N2O4
product | 1-(4-Chloro-6-methyl-2-nitro-benzenesulfonyl)-4-[(thymin-1-yl)-acetyl]-piperazin-2-one | 913 mg, 91% | ClC1=CC(=C(C(=C1)C)S(=O)(=O)N1C(CN(CC1)C(CN1C(=O)NC(=O)C(C)=C1)=O)=O)[N+](=O)[O-] | C18H18ClN5O8S
